US07491720B2
(1) Synthesis of 6-((4-(3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-(3-(methoxymethyl)thiazol-2(3H)-ylidene)-4-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-amine
To a mixture of 9.4 mg of N-hydroxyacetamidine, molecular sieves 4A and 1 ml of tetrahydrofuran was added sodium hydride followed by stirring at 65° C. for 1 hour. To the reaction solution was added a solution of 22.6 mg of methyl 2-((4-(3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-6-((3-(methoxymethyl)-thiazol-2(3H)-ylidene)amino)isonicotinate in 1 ml of tetrahydrofuran, followed by heating under reflux for 6 hours. The reaction solution was cooled to room temperature, diluted with ethyl acetate, and washed with saturated sodium bicarbonate and brine. The resulting organic layer was dried over magnesium sulfate and filtered, and the filtrate was concentrated. The resulting residue was purified by a thin-layer chromatography for fractionation (eluent: chloroform/methanol=10/1) to give the title compound.

reactant | N-hydroxyacetamidine | 9.4 mg | ONC(C)=N | C2H6N2O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-((4-(3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-6-((3-(methoxymethyl)-thiazol-2(3H)-ylidene)amino)isonicotinate | 22.6 mg | ClC=1C(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)OC)C=C(N2)N=C2SC=CN2COC)C=CC1)F | C24H25ClFN5O4S
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-((4-(3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-(3-(methoxymethyl)thiazol-2(3H)-ylidene)-4-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-amine | ClC=1C(=C(C(=O)N2CCN(CC2)CC2=CC(=CC(=N2)N=C2SC=CN2COC)C2=NC(=NO2)C)C=CC1)F | C25H25ClFN7O3S
